US06511974B1
[2-Chloro-4-(1H-tetrazol-5-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To a solution of 3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepine-10-carbonyl)-benzonitrile (0.348 g) in dimethylformamide (2 ml) was added sodium azide (0.078 g) and ammonium chloride (0.065 g). The mixture was heated to 100° C. for 18 hours.

reactant | 3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepine-10-carbonyl)-benzonitrile | 0.348 g | ClC=1C=C(C#N)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H14ClN3O
reactant | sodium azide | 0.078 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.065 g | [Cl-].[NH4+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(1H-tetrazol-5-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | ClC1=C(C=CC(=C1)C1=NN=NN1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H15ClN6O
